US07312249B2
d. Preparation of Dimethyl 4-trifluoromethanesulphonyloxyphthalate
21 g (100 mmol) of dimethyl 4-hydroxyphthalate are dissolved in 500 ml of dichloromethane. The reaction medium is cooled to 0° C., and 21 ml (155 mmol) of triethylamine are added. 30 g (105 mmol) of triflic anhydride are slowly added, and the reaction medium is slowly brought to room temperature, and is then treated with water, and extracted with dichloromethane. The organic phases are washed with a dilute sodium bicarbonate solution, and then dried and concentrated. The residue is purified by chromatography on a silica column (eluent ethyl acetate 30/heptane 70). A yellow oil is obtained (m=27 g, y=79%).

reactant | dimethyl 4-hydroxyphthalate | 100 mmol, 21 g | OC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C10H10O5
reactant | triethylamine | 155 mmol, 21 ml | C(C)N(CC)CC | C6H15N
reactant | triflic anhydride | 105 mmol, 30 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | Dimethyl 4-trifluoromethanesulphonyloxyphthalate | FC(S(=O)(=O)OC=1C=C(C(C(=O)OC)=CC1)C(=O)OC)(F)F | C11H9F3O7S
